### PR TITLE
feat(ErdosProblems): 602

### LINKED ISSUE #821: Erdős Problem 602
### What is the conjecture
    
https://www.erdosproblems.com/602

  Let $(A_i)$ be a family of sets with $\lvert A_i\rvert=\aleph_0$ for all $i$, such that for any $i\neq j$ we have $\lvert A_i\cap A_j\rvert$ finite and $\neq 1$. Is there a $2$-colouring of $\cup A_i$ such that no $A_i$ is monochromatic?
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by SuccessMoses**
fixes #821

### CODE REVIEW

File: FormalConjectures/ErdosProblems/602.lean [hunk 1]
```diff
@@ -0,0 +1,47 @@
...
+/--
+**Erdős Problem 602:**
+Let $(A_i)$ be a family of sets with $|A_i| = \aleph_0$ for all $i$, such that for any $i \neq j$ we have
+$|A_i \cap A_j|$ finite and $\neq 1$.
+
+Is there a $2$-colouring of $\bigcup_i A_i$ such that no $A_i$ is monochromatic?
+-/
+@[category research open, AMS 03 05]
+theorem erdos_602 :
+    ∃ (c : {x : α // ∃ i, x ∈ A i} → Fin 2),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/602.lean]:
```suggestion
    ∃ (c : α → Fin 2),
```
You can always set the coloring to be whatever you want outside the union of the sets

File: FormalConjectures/ErdosProblems/602.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+    ∀ i, #(c '' fun ⟨x, _⟩ ↦ x ∈ A i) ≠ 1 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/602.lean]: The informal statement is phrased as a question. Could you therefore move all variables to the LHS of an iff whose RHS is `answer(sorry)`?

File: FormalConjectures/ErdosProblems/602.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+-/
+
+namespace Erdos602
+
+open Cardinal
+
+universe u v
+
+variable (ι : Type u) (α : Type v) (A : ι → Set α) (h : ∀ i, #(A i) = ℵ₀)
+variable (hij : ∀ i j, i ≠ j → ∃ n : ℕ, n ≠ 1 ∧ #{x : α // x ∈ (A i ∩ A j)} = n)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/602.lean]:
```suggestion
universe u v

variable (ι : Type u) (α : Type v) (A : ι → Set α) (h : ∀ i, #(A i) = ℵ₀)
variable (hij : Pairwise fun i j ↦ (A i ∩ A j).Finite)
```

File: FormalConjectures/ErdosProblems/602.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+**Erdős Problem 602:**
+Let $(A_i)$ be a family of sets with $|A_i| = \aleph_0$ for all $i$, such that for any $i \neq j$ we have
+$|A_i \cap A_j|$ finite and $\neq 1$.
+
+Is there a $2$-colouring of $\bigcup_i A_i$ such that no $A_i$ is monochromatic?
+-/
+@[category research open, AMS 03 05]
+theorem erdos_602 :
+    (∃ (c : α → Fin 2),
+    ∀ i, #(c '' {x : α | x ∈ A i}) ≠ 1) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/602.lean]: What about
```suggestion
    (∃ c : α → Fin 2, ∀ i, (c '' A i).Nontrivial) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/602.lean [hunk 5]
```diff
@@ -0,0 +1,47 @@
...
+
+universe u v
+
+variable (ι : Type u) (α : Type v) (A : ι → Set α) (h : ∀ i, #(A i) = ℵ₀)
+variable (hij : Pairwise fun i j ↦ (A i ∩ A j).Finite)
+
+/--
+**Erdős Problem 602:**
+Let $(A_i)$ be a family of sets with $|A_i| = \aleph_0$ for all $i$, such that for any $i \neq j$ we have
+$|A_i \cap A_j|$ finite and $\neq 1$.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/602.lean:34]: You seem to be missing the \ne 1 condition in the lean

File: FormalConjectures/ErdosProblems/602.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+-/
+
+namespace Erdos602
+
+open Cardinal
+
+universe u v
+
+variable (ι : Type u) (α : Type v) (A : ι → Set α) (h : ∀ i, #(A i) = ℵ₀)
+variable (hij : Pairwise fun i j ↦ (A i ∩ A j).Finite)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/602.lean]: Can you include all these variables in the `↔ answer(sorry)`? To spare you some trouble, let's make the statement universe monomorphic
```suggestion
variable (ι α : Type) (A : ι → Set α) (h : ∀ i, #(A i) = ℵ₀)
variable (hij : Pairwise fun i j ↦ (A i ∩ A j).Finite)
```

**Comment by mo271** [comment]
are you still working on this @SuccessMoses ?

**Comment by Smetalo** [comment]
Is this PR needed anymore now that #3751 is merged?
